### PR TITLE
chore(RingTheory/Generators): use unification hints for variables and relations

### PR DESCRIPTION
**Pull request by chrisflav**
When working with generators and presentations, we rely on the `MvPolynomial` API, but since the type of variables is bundled in `Generators R S`, many lemmas don't apply with `rw` or `simp`, because they can't see through the definition of `vars` in constructions such as `Generators.comp` and `Generators.localizationAway`.

A possible approach is to make all of these constructions `abbrev`s, but this causes `simp` to also unfold `val` which is not always desirable. More generally, it is then harder to predict how instance search and `simp` behave. This approach is tried in #21050, but causes many regressions.

This approach is less invasive, as it uses `unif_hint` to unify the `vars` (and `rels`) fields of constructions with the correct type.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 1]
```diff
@@ -297,6 +300,7 @@ lemma δAux_toAlgHom {Q : Generators.{u₁} S T}
     rw [add_left_comm]
     rfl
 
+set_option maxHeartbeats 300000 in
 lemma δAux_ofComp (x : (Q.comp P).Ring) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:304]: This is the worst regression.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 2]
```diff
@@ -401,7 +406,9 @@ lemma δ_eq_δAux (x : Q.ker) (hx) :
     δ Q P ⟨.mk x, hx⟩ = δAux R Q x.1 := by
   let y := Extension.Cotangent.mk (P := (Q.comp P).toExtension) (Q.kerCompPreimage P x)
   have hy : (Extension.Cotangent.map (Q.ofComp P).toExtensionHom) y = Extension.Cotangent.mk x := by
-    simp only [y, Extension.Cotangent.map_mk]
+    simp only [y]
+    -- this is needed after #21050
+    rw [Extension.Cotangent.map_mk]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:411]: And this is annoying.

**Comment by chrisflav** [comment]
!bench

**Comment by chrisflav** [comment]
!bench

File: Mathlib/RingTheory/Generators.lean [hunk 3]
```diff
@@ -112,31 +112,52 @@ def ofSurjective {vars} (val : vars → S) (h : Function.Surjective (aeval (R :=
   σ' x := (h x).choose
   aeval_val_σ' x := (h x).choose_spec
 
+/-- Let lean see through the `vars` field to enable the `MvPolynomial` API. -/
+unif_hint ofSurjective_vars_eq {vars} (val : vars → S)
+    (h : Function.Surjective (aeval (R := R) val)) where
+  ⊢ (ofSurjective val h).vars ≟ vars
```
Comment (erdOne) [inline Mathlib/RingTheory/Generators.lean:118]: Can you put the PR message (or something similar) in a library note and just link to that in these `unif_hints`?

**Comment by erdOne** [comment]
Can you open a topic on Zulip? I'd like to hear from people who actually know what `unif_hint` does under the hood.

**Review by mattrobball — CHANGES_REQUESTED** [review]
We need an improvement performance wise here before I am comfortable merging this

**Comment by chrisflav** [comment]
> We need an improvement performance wise here before I am comfortable merging this

I agree, do you have an idea on how to improve the situation in the `JacobiZariski` file?

**Comment by chrisflav** [comment]
> I took a brief look at this file on Friday. The main thing I discovered is that specializing universe levels could result in dramatic speed ups. At a loss of polymorphicity.
> 
> It seems the universe level inside the structure is difficult for Lean to manage.
> 
> If I have time today, I'll see if I can figure anything more out

Thanks! I'll do some more cleaning ups of proofs in the meantime, this might also help.
